US06713471B1
To a solution of ethyl 1,3-dihydro-2H-inden-2-ylideneacetate (302 mg, 1.49 mmol) in EtOAc (10 mL) was added 5% Pd/C (76 mg) and H2 was bubbled through the slurry for 20 h. The slurry was then filtered through Celite and the organic solution was concentrated in vacuo. Ethyl 2,3-dihydo-1H-inden-2-ylacetate (285 mg, 94%) was isolated as a colorless oil without purification.

reactant | ethyl 1,3-dihydro-2H-inden-2-ylideneacetate | 1.49 mmol, 302 mg | C1C(CC2=CC=CC=C12)=CC(=O)OCC | C13H14O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 76 mg | [Pd] | Pd
product | Ethyl 2,3-dihydo-1H-inden-2-ylacetate | 285 mg, 94% | C1C(CC2=CC=CC=C12)CC(=O)OCC | C13H16O2
